data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-c2ccc(Cl)cc2_2-c2ccc(OC)cc2_3-C_4-c2cccc(F)c2","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccc(Cl)cc2)","C(c2ccc(OC)cc2)=C(C)(c2cccc(F)c2)"],"products_smiles": ["C(c2ccc(OC)cc2)1OC1(C)(c2cccc(F)c2)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccc(Cl)cc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccc(Cl)cc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(c2ccc(OC)cc2)1OC1(C)(c2cccc(F)c2)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NR-237_1-C(=O)c1ccccc1_2-c1ccc(C(F)(F)F)cc1_3-c1ncccc1_4-C1CCCCC1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["C(=O)c1ccccc1N=[N+]=[N-]","P(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)"],"products_smiles": ["C(=O)c1ccccc1N","O=P(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N=[N+]=N[P+](c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N1N=NP1(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N=P(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)c1ccccc1[NH+]=P(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)c1ccccc1N[P](O)(c1ccc(C(F)(F)F)cc1)(c1ncccc1)(C1CCCCC1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=O)c1ccccc1N","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
